US07157487B2
In THF (5 ml), 0.25N NaOH (4 ml, 4.82 mmol) was added to methyl (3-chloro-4-((7-fluoro-1-isoquinolinylcarbonyl)amino)phenyl)acetate (100 mg, 0.27 mmol) and the resulting mixture was stirred at room temperature for 18 hours. The reaction mixture was poured into 1N HCl (2.0 ml). The crystals thus precipitated were collected by filtration under reduced pressure, washed with water, and dried under reduced pressure to give (3-chloro-4-((7-fluoro-1-isoquinolinylcarbonyl)amino)phenyl)acetic acid (75 mg, 78%) as a colorless solid.

reactant | NaOH | 4.82 mmol, 0.25N, 4 ml | [OH-].[Na+]
reactant | methyl (3-chloro-4-((7-fluoro-1-isoquinolinylcarbonyl)amino)phenyl)acetate | 0.27 mmol, 100 mg | ClC=1C=C(C=CC1NC(=O)C1=NC=CC2=CC=C(C=C12)F)CC(=O)OC | C19H14ClFN2O3
reactant | HCl | 1N, 2.0 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (3-chloro-4-((7-fluoro-1-isoquinolinylcarbonyl)amino)phenyl)acetic acid | 75 mg, 78% | ClC=1C=C(C=CC1NC(=O)C1=NC=CC2=CC=C(C=C12)F)CC(=O)O | C18H12ClFN2O3
